US09290496B2
Step 6: Preparation of (+/−)-cis-tert-butyl 3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
To a solution of (+/−)-cis-tert-butyl 5-benzyl-3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (1.5 g, 4.5 mmol) in MeOH (100 mL) was added Pd(OH)2/C (300 mg) under nitrogen. The suspension was degassed under vacuum and purged with hydrogen three times. The mixture was stirred at 40-50° C. under hydrogen (45 psi) overnight. TLC (petroleum ether/EtOAc=2/1) showed the reaction was complete. The mixture was filtered, concentrated and purified by column chromatography (CH2Cl2/MeOH=15/1) to afford the title compound (454 mg, 41% yield) as a yellow gum. 1H NMR (400 MHz, CDCl3) δ 3.95 (brs., 2 H), 3.51-3.78 (m, 3 H), 3.36-3.50 (m, 2 H), 3.14-3.35 (m, 4 H), 2.83-3.08 (m, 2 H), 2.75 (brs., 1 H), 1.45 (s, 9 H). m/z (APCI+) for C12H22N2O3 [M−56+H]+.

reactant | (+/−)-cis-tert-butyl 5-benzyl-3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 4.5 mmol, 1.5 g | C(C1=CC=CC=C1)N1C[C@@H]2[C@](C1)(CN(C2)C(=O)OC(C)(C)C)OC | C19H28N2O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd(OH)2/C | 300 mg | [OH-].[OH-].[Pd+2]
product | (+/−)-cis-tert-butyl 3a-methoxyhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 454 mg, 41% yield | CO[C@@]12[C@@H](CNC1)CN(C2)C(=O)OC(C)(C)C | C12H22N2O3
